US07858630B2
Step 3: trans-(4-Methoxy-cyclohexyl)-acetic acid methyl ester
trans-(4-Hydroxy-cyclohexyl)-acetic acid methyl ester (500 mg, 2.90 mmol) were dissolved in 1.5 ml DMF and cooled to 0-5° C. Sodium hydride (190 mg, 4.35 mmol, 55%) and iodomethane (3.62 ml, 23.2 mmol) were added and the reaction mixture stirred for 4 hours at 0-5° C. The reaction mixture was quenched with saturated NaHCO3-solution and extracted with dichloromethane. The organic extract was washed with brine, dried with sodium sulfate, filtered and evaporated. The crude product (561 mg, quant.) was obtained as a colourless oil and used without any further purification for the next step.

reactant | trans-(4-Hydroxy-cyclohexyl)-acetic acid methyl ester | 2.90 mmol, 500 mg | COC(C[C@@H]1CC[C@H](CC1)O)=O | C9H16O3
reactant | Sodium hydride | 4.35 mmol, 190 mg | [H-].[Na+]
reactant | iodomethane | 23.2 mmol, 3.62 ml | IC | CH3I
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | trans-(4-Methoxy-cyclohexyl)-acetic acid methyl ester | 561 mg | COC(C[C@@H]1CC[C@H](CC1)OC)=O | C10H18O3
